US08258140B2
Preparation of 6-(4-{4-[3-(4-pentanoylpiperazin-1-yl)propoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine
Obtained in 66% yield by an analogous method to Example 4.1, starting from 6-[4-[4-[3-(piperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazine and pentanoic acid.

reactant | 6-[4-[4-[3-(piperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C24H32F3N7O
reactant | pentanoic acid | C(CCCC)(=O)O | C5H10O2
product | 6-(4-{4-[3-(4-pentanoylpiperazin-1-yl)propoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine | 66% yield | C(CCCC)(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C29H40F3N7O2
